US05434186
Preparation of 5-[[3-(Ethoxycarbonyl)phenyl]carbonyl]-2-[[(trifluoromethyl)sulfonyl]oxy]benzenepropanoic Acid Ethyl Ester
To a solution of 8.50 g (22.95 mmol) of 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester in 20 mL of pyridine cooled in an ice bath was added slowly 4.2 mL (24.97 mmol) of trifluoromethanesulfonic anhydride. After being stirred for 43 hr, the reaction mixture was treated with 100 mL of water and worked-up with ether in the usual manner. The crude product obtained was purified by flash chromatography on 600 g of silica gel, eluting with 4:1 hexane-ethyl acetate. This afforded 10.09 g (87.5%) of the title compound as a colorless oil.

reactant | 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester | 22.95 mmol, 8.50 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)O)=O | C21H22O6
reactant | trifluoromethanesulfonic anhydride | 24.97 mmol, 4.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 100 mL | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 5-[[3-(Ethoxycarbonyl)phenyl]carbonyl]-2-[[(trifluoromethyl)sulfonyl]oxy]benzenepropanoic Acid Ethyl Ester | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OS(=O)(=O)C(F)(F)F)=O | C22H21F3O8S
